US20010021718A1
(3R)-6-Cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoic acid
tert-Butyl (3R)-6-cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoate (Preparation 44) (350 mg, 1.04 mmol) was treated with trifluoroacetic acid (3 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 45 minutes. The solvent was removed under reduced pressure and the residue azeotroped from toluene then dichioromethane to afford the title compound (185 mg).

reactant | tert-Butyl (3R)-6-cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoate | 1.04 mmol, 350 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C | C19H32N2O3
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R)-6-Cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoic acid | 185 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C | C15H24N2O3
